US08440830B2
To a solution of ethyl 3-(3-nitropyridin-4-yl)-2-oxopropanoate (1.0 eq) in dichloromethane was added 10% Pd/C (1.5 eq.) under nitrogen atmosphere at 110 psi in an autoclave for 48 hrs. Reaction mixture was filtered through celite and concentrated to get brown solid, which, on purification by column chromatography afforded the desired ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate.

reactant | ethyl 3-(3-nitropyridin-4-yl)-2-oxopropanoate | 1.0 eq | [N+](=O)([O-])C=1C=NC=CC1CC(C(=O)OCC)=O | C10H10N2O5
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd/C | 1.5 eq. | [Pd] | Pd
product | ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate | N1C(=CC=2C1=CN=CC2)C(=O)OCC | C10H10N2O2
